* /home/saurabh/esim-workspace/monostable555/monostable555.cir

.include lm555n.sub
* u3  vc ic
.ic v(vc)=0
x1 gnd in out net-_r1-pad1_ net-_c2-pad1_ vc vc net-_r1-pad1_ lm555n
c1  vc gnd 30u
* u3  vc ic
c2  net-_c2-pad1_ gnd 0.01u
v2  in gnd pulse(0 5 0.0025 0.0005 0.0005 0.0025 0.005)
r1  net-_r1-pad1_ vc 1k
r2  out gnd 1.5k
* u4  out plot_v1
v1 net-_r1-pad1_ gnd  dc 5
* u5  in plot_v1
* u2  vc plot_v1
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
plot v(vc)
.endc
.end
